### ISSUE TITLE
Running `simp?` output produces different goal than `simp`

### ISSUE THREAD

**Issue by llllvvuu** [leanprover/lean4#4615]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

```lean
 /-- info: "4.10.0-rc1" -/
#guard_msgs in
#eval Lean.versionString

/--
info: Try this: simp only [exists_prop, exists_and_left, exists_eq_right_right]
---
warning: declaration uses 'sorry'
---
info: [Meta.Tactic.simp.rewrite] exists_prop:1000, ∃ x_1, a = x ==> 1 < a ∧ a = x
[Meta.Tactic.simp.rewrite] exists_and_left:1000, ∃ x_1, 1 < a ∧ a = x ==> 1 < a ∧ ∃ x_1, a = x
[Meta.Tactic.simp.rewrite] exists_prop:1000, ∃ x_1, a = x ==> 0 < a ∧ a = x
[Meta.Tactic.simp.rewrite] exists_eq_right_right:1000, ∃ a, 1 < a ∧ 0 < a ∧ a = x ==> 1 < x ∧ 0 < x
-/
#guard_msgs in
set_option trace.Meta.Tactic.simp.rewrite true in
example (x : Nat) : ∃ (a : Nat) (_ : 0 < a) (_ : 1 < a), a = x := by
  simp?
  show 1 < x ∧ 0 < x
  sorry

example (x : Nat) : ∃ (a : Nat) (_ : 0 < a) (_ : 1 < a), a = x := by
  simp only [exists_prop, exists_and_left, exists_eq_right_right]
  show 0 < x ∧ 1 < x
  sorry
```

### Context

Originally reported on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/squeezing.20.60simp.60.20changes.20the.20goal/near/448468100).

### Steps to Reproduce

Paste the above code into a Lean editor.

**Expected behavior:** The goal is the same.

**Actual behavior:** The goal is different.

### Versions

This particular repro works on 4.7.0+ (where the simp lemmas were introduced), but there may be a simpler reproduction that uses pre-4.7.0 simp lemmas.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by leodemoura** [comment]
The issue here is that `simp?` produces a `simp only [...]` using the order the theorems have been applied. 
The correct order should be based on 
1- `[simp]` attribute priorities
2- The order the theorems have been inserted into the global simp-set.

Here is mwe for (1).
```lean
inductive Ex (p : α → Prop) : Prop where
| intro (w : α) (h : p w) : Ex p

@[simp] theorem ex_prop (p q : Prop) : Ex (fun h : p => q) = (p ∧ q) := sorry
@[simp high] theorem ex_and_left (p : α → Prop) (b : Prop) : (Ex fun x => b ∧ p x) = (b ∧ Ex fun x => p x) := sorry
@[simp] theorem ex_eq_right_right (p q : α → Prop) : (Ex fun x => p x ∧ q x ∧ x = a) = (p a ∧ q a) := sorry

/--
info: Try this: simp only [ex_prop, ex_and_left, ex_eq_right_right]
---
warning: declaration uses 'sorry'
-/
#guard_msgs in
example (x : Nat) : Ex fun (a : Nat) => Ex fun (_ : 0 < a) => Ex fun (_ : 1 < a) => a = x := by
  simp? -- Produces incorrect `simp only`
  guard_target =ₛ 1 < x ∧ 0 < x
  sorry

example (x : Nat) : Ex fun (a : Nat) => Ex fun (_ : 0 < a) => Ex fun (_ : 1 < a) => a = x := by
  simp only [ex_prop, ex_and_left, ex_eq_right_right]
  guard_target =ₛ 0 < x ∧ 1 < x
  sorry

example (x : Nat) : Ex fun (a : Nat) => Ex fun (_ : 0 < a) => Ex fun (_ : 1 < a) => a = x := by
  simp only [ex_and_left, ex_prop, ex_eq_right_right] -- This is the correct order
  guard_target =ₛ 1 < x ∧ 0 < x
  sorry
```

The original issue is a mwe for (2). Here is another mwe for (2) that does not depend on the order theorems are defined in `Init`
```lean
inductive Ex (p : α → Prop) : Prop where
| intro (w : α) (h : p w) : Ex p

@[simp] theorem ex_and_left (p : α → Prop) (b : Prop) : (Ex fun x => b ∧ p x) = (b ∧ Ex fun x => p x) := sorry
@[simp] theorem ex_prop (p q : Prop) : Ex (fun h : p => q) = (p ∧ q) := sorry
@[simp] theorem ex_eq_right_right (p q : α → Prop) : (Ex fun x => p x ∧ q x ∧ x = a) = (p a ∧ q a) := sorry

/--
info: Try this: simp only [ex_prop, ex_and_left, ex_eq_right_right]
---
warning: declaration uses 'sorry'
-/
#guard_msgs in
example (x : Nat) : Ex fun (a : Nat) => Ex fun (_ : 0 < a) => Ex fun (_ : 1 < a) => a = x := by
  simp?
  guard_target =ₛ 1 < x ∧ 0 < x
  sorry

example (x : Nat) : Ex fun (a : Nat) => Ex fun (_ : 0 < a) => Ex fun (_ : 1 < a) => a = x := by
  simp only [ex_prop, ex_and_left, ex_eq_right_right]
  guard_target =ₛ 0 < x ∧ 1 < x
  sorry

example (x : Nat) : Ex fun (a : Nat) => Ex fun (_ : 0 < a) => Ex fun (_ : 1 < a) => a = x := by
  simp only [ex_and_left, ex_prop, ex_eq_right_right] -- This is the correct order
  guard_target =ₛ 1 < x ∧ 0 < x
  sorry
```

**Comment by leodemoura** [comment]
`simp` can take additional simp-sets, the order we provide them should be taken into account too.  Here is a mwe for this related issue.
```
inductive Ex (p : α → Prop) : Prop where
| intro (w : α) (h : p w) : Ex p

@[seval] theorem ex_prop (p q : Prop) : Ex (fun h : p => q) = (p ∧ q) := sorry
@[simp] theorem ex_and_left (p : α → Prop) (b : Prop) : (Ex fun x => b ∧ p x) = (b ∧ Ex fun x => p x) := sorry
@[simp] theorem ex_eq_right_right (p q : α → Prop) : (Ex fun x => p x ∧ q x ∧ x = a) = (p a ∧ q a) := sorry

/--
info: Try this: simp only [ex_prop, ex_and_left, ex_eq_right_right]
---
warning: declaration uses 'sorry'
-/
#guard_msgs in
example (x : Nat) : Ex fun (a : Nat) => Ex fun (_ : 0 < a) => Ex fun (_ : 1 < a) => a = x := by
  -- If theorems in `simp` and `seval` have the same priority, the one in `simp` must appear first
  -- in the resulting `simp only`
  simp? only [simp, seval, -Nat.isValue] -- produces an incorrect `simp only`
  guard_target =ₛ 1 < x ∧ 0 < x
  sorry

example (x : Nat) : Ex fun (a : Nat) => Ex fun (_ : 0 < a) => Ex fun (_ : 1 < a) => a = x := by
  simp only [ex_prop, ex_and_left, ex_eq_right_right]
  guard_target =ₛ 0 < x ∧ 1 < x
  sorry

example (x : Nat) : Ex fun (a : Nat) => Ex fun (_ : 0 < a) => Ex fun (_ : 1 < a) => a = x := by
  simp only [ex_and_left, ex_eq_right_right, ex_prop] -- This is the correct order
  guard_target =ₛ 1 < x ∧ 0 < x
  sorry
```

**Comment by nomeata** [comment]
Likely same cause: the suggested simp only call works, but has lemmas that are unused (as shown by the linter, or by using `simp? only`.

```
def f : Nat → Nat := sorry
def P : Nat → Prop := sorry

@[simp] theorem p_one : P 1 := sorry
@[simp] theorem f_eq (n : Nat) (h : P n) (h2 : 1 < n) : f n = 0 := sorry
@[simp] theorem f_one : f 1 = 5 := sorry

example : f 1 = 5 := by simp?
```

(Found by @b-mehta.)
